US06255323B1
5-Dimethylamino-naphthalene-1-sulfonic acid (4-(N′-cyano-N″-pyridin-4-yl-guanidinomethyl)-phenyl)-amide (SBR-11-2897) was synthesized as follows
N-(4-Amino-benzyl)-N′-cyano-N″-quinolin-5-yl-guanidine (400 mg, 1.50 mmol) and dansyl chloride (405 mg, 1.50 mmol) were combined in pyridine (15 mL). An exothermic reaction occurred and the suspension became homogeneous. This solution was shaken at room temperature for 12 hours. The reaction mixture was then diluted with ethyl acetate (80 mL) and washed with water (40 mL×3). The organic phase was dried over anhydrous sodium sulfate. The solvent was removed in vacuo to give a solid product which was purified by HPLC (yield=60%). 1H NMR (DMSO-d6, ppm): 10.73 (s, 1H), 9.09 (bs, 1H), 8.57 (d, 2H), 8.44 (d, 2H), 8.36 (d, 1H), 8.21 (d, 1H), 7.61 (m, 3H), 7.50 (s, 2H), 7.27 (d, 1H), 7.17 (d, 2H), 7.03 (d, 2H), 4.38 (d, 2H).

reactant | N-(4-Amino-benzyl)-N′-cyano-N″-quinolin-5-yl-guanidine | 1.50 mmol, 400 mg | NC1=CC=C(CNC(=NC2=C3C=CC=NC3=CC=C2)NC#N)C=C1 | C18H16N6
reactant | dansyl chloride | 1.50 mmol, 405 mg | S(=O)(=O)(C1=CC=CC=2C(N(C)C)=CC=CC12)Cl | C12H12ClNO2S
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
product | 5-Dimethylamino-naphthalene-1-sulfonic acid (4-(N′-cyano-N″-pyridin-4-yl-guanidinomethyl)-phenyl)-amide | yield=60% | C(#N)N=C(NCC1=CC=C(C=C1)NS(=O)(=O)C1=CC=CC2=C(C=CC=C12)N(C)C)NC1=CC=NC=C1 | C26H25N7O2S
